US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 2-fluoro-3-(pyridin-2-yl)benzeneboronic acid as described in Example 1 to give 3-[2-fluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a white solid. Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, DMSO) 7.61-7.71 (3H, m), 7.87-7.91 (1H, m), 8.07-8.11 (2H, m), 8.20-8.24 (1H, m), 8.42 (1H, s), 8.87 (1H, dd, J 5 and 1), 9.42 (1H, dd, J 7 and 3); m/z (ES+) 359 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2-fluoro-3-(pyridin-2-yl)benzeneboronic acid | FC1=C(C=CC=C1C1=NC=CC=C1)B(O)O | C11H9BFNO2
product | 3-[2-fluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=CC=C1C1=NC=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C18H10F4N4
